US08895733B2
Intermediate 227: 2-Chloro-5-[(2,2,2-trifluoroethoxy)methyl]pyridine
(6-Chloropyridin-3-yl)methanol (1.0 g, 6.97 mmol) was dissolved in THF (20 mL), potassium tert-butoxide (0.860 g, 7.66 mmol) was added and the mixture stirred at room temperature. 2,2,2-Trifluoroethyl trifluoromethanesulfonate (1.78 g, 7.66 mmol) was added dropwise with ice cooling and then the mixture stirred at room temperature for 2 h. EtOAc (50 mL) and water (50 mL) were added, the organic layer was separated and the aqueous layer neutralised to pH 6. The aqueous layer was then further extracted with EtOAc (3×20 mL), combined organic layers were dried over sodium sulfate and concentrated to yield a yellow solid. This was purified by FCC, eluting with a gradient of 0-50% EtOAc in heptane to afford the title compound as a colourless oil (0.537 g, 34%). 1H NMR (500 MHZ, CDCl3) δ ppm 8.30 (1H, d), 7.61 (1H, dd), 7.30 (1H, d), 4.61 (2H, s) and 3.82 (2H, q).

reactant | (6-Chloropyridin-3-yl)methanol | 6.97 mmol, 1.0 g | ClC1=CC=C(C=N1)CO | C6H6ClNO
reactant | potassium tert-butoxide | 7.66 mmol, 0.860 g | CC(C)([O-])C.[K+]
reactant | 2,2,2-Trifluoroethyl trifluoromethanesulfonate | 7.66 mmol, 1.78 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 2-Chloro-5-[(2,2,2-trifluoroethoxy)methyl]pyridine | 0.537 g, 34% | ClC1=NC=C(C=C1)COCC(F)(F)F | C8H7ClF3NO
